US04433152
A mixture of 3 g of 1-amidino-3-piperidinecarboxylic acid hydrochloride, 1.4 g of phenol, 3 g of dicyclohexylcarbodiimide and 40 ml of dry pyridine was stirred at room temperature for 2 days. After removal of any insoluble materials, the solvent was removed under reduced pressure to give a light yellow oil. The oil was washed twice with ethyl acetate to give white powder. The powder was washed with dry ether and dried under reduced pressure to obtain 3 g of phenyl 1-amidino-3-piperidinecarboxylate hydrochloride as hygroscopic white powder having a melting point of 54° to 60° C.

reactant | 1-amidino-3-piperidinecarboxylic acid hydrochloride | 3 g | Cl.C(N)(=N)N1CC(CCC1)C(=O)O
reactant | phenol | 1.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | dicyclohexylcarbodiimide | 3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | phenyl 1-amidino-3-piperidinecarboxylate hydrochloride | 3 g | Cl.C(N)(=N)N1CC(CCC1)C(=O)OC1=CC=CC=C1 | InChI=1S/C13H17N3O2.ClH/c14-13(15)16-8-4-5-10(9-16)12(17)18-11-6-2-1-3-7-11;/h1-3,6-7,10H,4-5,8-9H2,(H3,14,15);1H
